US09193744B2
(3R,4aR,12bR)-12b-Ethyl-9-(4-(methylthio)phenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazol-3-ol (11, R1=4-(Methylthio)phenyl, R2=Ethyl, R3=Trifluoromethyl) (230 mg, 0.485 mmol) in acetone (10 mL) and water (2 mL) was treated with 3-chlorobenzoperoxoic acid (543 mg, 2.42 mmol) at rt. After 30 min the mixture was concentrated under reduced pressure then the material was partitioned between sat. aq. NaHCO3 (15 mL), water (15 mL) and EtOAc (30 mL). The organic layer was washed with brine (10 mL), dried over MgSO4 and filtered. The filtrate was concentrated under reduced pressure then the material was purified on silica gel (12 g) using 0-40% EtOAc in DCM. Product fractions were concentrated under reduced pressure then triturated with Et2O (1.5 mL) in heptane (20 mL). The solids were collected by filtration and dried to yield (3R,4aR,12bR)-12b-ethyl-9-(4-(methylsulfonyl)phenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazol-3-ol (11, R1=4-(Methylsulfonyl)phenyl, R2=Ethyl, R3=Trifluoromethyl) (110.6 mg, 45.0%); LC/MS, method 2, Rt=2.43 min, MS m/z 507 (M+H)+. 1H NMR (400 MHz, DMSO) δ 8.37 (d, J=0.8 Hz, 1H), 8.14-8.06 (m, 4H), 7.88 (s, 1H), 7.80 (s, 1H), 5.86 (s, 1H), 3.30 (s, 3H), 3.28-3.22 (m, 1H), 3.02-2.97 (m, 1H), 2.29-2.20 (m, 1H), 2.16-1.98 (m, 4H), 1.93-1.75 (m, 2H), 1.73-1.54 (m, 5H), 1.41-1.30 (m, 1H), 0.44 (t, J=7.3 Hz, 3H).

reactant | (3R,4aR,12bR)-12b-Ethyl-9-(4-(methylthio)phenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazol-3-ol | C(C)[C@@]12[C@H](CCCC=3C1=CC=1C=NN(C1C3)C3=CC=C(C=C3)SC)C[C@@](CC2)(O)C(F)(F)F | C26H29F3N2OS
reactant | water | 2 mL | O | H2O
reactant | 3-chlorobenzoperoxoic acid | 2.42 mmol, 543 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | (3R,4aR,12bR)-12b-ethyl-9-(4-(methylsulfonyl)phenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazol-3-ol | C(C)[C@@]12[C@H](CCCC=3C1=CC=1C=NN(C1C3)C3=CC=C(C=C3)S(=O)(=O)C)C[C@@](CC2)(O)C(F)(F)F | C26H29F3N2O3S
